US08420670B2
2-(8-Methoxy-2-methylquinolin-4-ylamino)-2-phenylacetamide
Preparation was made using a similar procedure as described in example 19, method 19.2. Starting materials were 4-chloro-8-methoxy-2-methylquinoline and 2-amino-2-phenyl-acetamide. Acetonitrile was used as solvent instead of dimethylformamide.

reactant | 4-chloro-8-methoxy-2-methylquinoline | ClC1=CC(=NC2=C(C=CC=C12)OC)C | C11H10ClNO
reactant | 2-amino-2-phenyl-acetamide | NC(C(=O)N)C1=CC=CC=C1 | C8H10N2O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | Acetonitrile | C(C)#N | C2H3N
product | 2-(8-Methoxy-2-methylquinolin-4-ylamino)-2-phenylacetamide | COC=1C=CC=C2C(=CC(=NC12)C)NC(C(=O)N)C1=CC=CC=C1 | C19H19N3O2
